US07674789B2
27a) 1,1-dimethylethyl 4-{[8-(2,6-difluorophenyl)-4-(5-{[(3-fluoro-4-methylphenyl)carbonyl]amino}-2-methylphenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]amino}-1-piperidinecarboxylate
The compound N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide, (0.1 g, 0.172 mmol), 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate (0.11 g, 0.549 mmol) and triethylamine (0.5 mL) were suspended in stirred THF (4 mL) and heated to 60° C. under argon for 4 days. Dioxane (4 mL) was added and the reaction warmed to 85° C. for 2 days and then 95° C. for 1 day. The reaction mixture was diluted with EtOAc and the organics were washed with water, brine (twice), dried over Na2SO4, filtered and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel, eluting with 10% EtOAc/CH2Cl2 —50% EtOAc/CH2Cl2 to afford the title compound as a white solid. LC-MS m/z 702 (M+H)+, 2.41 min (ret. time)

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | 0.172 mmol, 0.1 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)S(=O)(=O)C)=O | C28H22F3N5O4S
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | 0.549 mmol, 0.11 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,1-dimethylethyl 4-{[8-(2,6-difluorophenyl)-4-(5-{[(3-fluoro-4-methylphenyl)carbonyl]amino}-2-methylphenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]amino}-1-piperidinecarboxylate | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C2=C(C=CC(=C2)NC(=O)C2=CC(=C(C=C2)C)F)C)NC2CCN(CC2)C(=O)OC(C)(C)C)=O | C37H38F3N7O4
